US06743810B2
3-{6-[3-(4-oxo-4,5-dihydro-1H-imidazol-2-ylamino)propoxy]-1H-indol-3-yl}-3-pyridin-4-ylpropionic acid.
Analogously to Example 16, the reaction of 3-[6-(3-aminopropoxy)-1H-indol-3-yl]-3-benzo-1,2,5-thiadiazol-5-ylpropionic acid (prepared analogously to Example 1.1-1.2 and 15) with 2-methylsulfanyl-1,5-dihydroimidazol-4-one and subsequent synthesis sequence gives

reactant | 3-[6-(3-aminopropoxy)-1H-indol-3-yl]-3-benzo-1,2,5-thiadiazol-5-ylpropionic acid | NCCCOC1=CC=C2C(=CNC2=C1)C(CC(=O)O)C=1C=CC=2C(=NSN2)C1 | C20H20N4O3S
reactant | 2-methylsulfanyl-1,5-dihydroimidazol-4-one | CSC=1NCC(N1)=O | C4H6N2OS
product | 3-{6-[3-(4-oxo-4,5-dihydro-1H-imidazol-2-ylamino)propoxy]-1H-indol-3-yl}-3-pyridin-4-ylpropionic acid | O=C1N=C(NC1)NCCCOC1=CC=C2C(=CNC2=C1)C(CC(=O)O)C1=CC=NC=C1 | C22H23N5O4
